US05616586
9-Bromo-5-(p-methoxycarbonyl-m-chlorophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (340 mg, 1 mmol) and m-chloro-p-methoxycarbonylaniline (200 mg, 1.08 mmol) to give 230 mg of the title compound (45%): mp 167° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ12.04 (bs, 1H), 10.48 (s, 1H), 7.89 (d, 1H, J=2 Hz), 7.86 (d, 2H, J=8.6 Hz), 7.53 (dd, 1H, J=8.6, 2 Hz), 7.24 (d, 1H, J=2 Hz), 7.17 (d, 1H, J=2 Hz), 5.17~5.26 (m, 1H), 3.83 (s, 3H), 3.04 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.84 (dm, 1H, J=17.1 Hz), 2.57~2.69 (m, 2H), 2.12 (dm, 1H, J=13.5 Hz), 1.83~1.97 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1 mmol, 340 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | m-chloro-p-methoxycarbonylaniline | 1.08 mmol, 200 mg | ClC=1C=C(N)C=CC1C(=O)OC | C8H8ClNO2
product | 9-Bromo-5-(p-methoxycarbonyl-m-chlorophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 230 mg, 45% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC(=C(C=C2)C(=O)OC)Cl)=O | C21H17BrClN3O5
